US06514996B2
(Step A) 2-(3-Fluorophenylaminocarbonyl)-7-methoxybenzofuran (Compound IIbf-a)
Under a nitrogen atmosphere, 3-fluoroaniline (6.2 ml) was dissolved in dry THF (150 ml), and the solution was stirred at 0° C. Sodium hydride (3.4 g) was slowly added to the mixture followed by stirring at 0° C. for 20 minutes. After the generation of hydrogen ceased, 7-methoxybenzofuran-2-carbonyl chloride (9.0 g) was added to the mixture, followed by stirring at room temperature for 3 hours. The reaction was stopped with 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with a 1N aqueous solution of hydrochloric acid and with a saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was triturated with diethyl ether to give Compound IIbf-a (7.82 g, 64.2%) as a white solid.

reactant | 3-fluoroaniline | 6.2 ml | FC=1C=C(N)C=CC1 | C6H6FN
reactant | Sodium hydride | 3.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 7-methoxybenzofuran-2-carbonyl chloride | 9.0 g | COC1=CC=CC=2C=C(OC21)C(=O)Cl | C10H7ClO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(3-Fluorophenylaminocarbonyl)-7-methoxybenzofuran | FC=1C=C(C=CC1)NC(=O)C=1OC2=C(C1)C=CC=C2OC | C16H12FNO3
